### PR TITLE
[Merged by Bors] - feat: non-degeneracy of root pairing form without assuming ordered scalars

### PR DESCRIPTION
**Pull request by ocfnash**
The motivation, and headline item is the new lemma `RootPairing.rootForm_restrict_nondegenerate_of_isAnisotropic` which establishes non-degeneracy of the root form without assuming ordered scalars, at the cost of requiring the crystallographic assumption and field coefficients. Since we also want to keep the old lemma (renamed to) `RootPairing.rootForm_restrict_nondegenerate_of_ordered` which establishes the same result over an ordered ring, we need to do some work in order to unify things as much as possible.

With this in mind I have:
- Turned `RootPairing.IsCrystallographic` into a typeclass
- Introduced `RootPairing.IsAnisotropic` (which I've just made up but seems to be a good way to unify things; I also considered the idea that the pairing should take values in an ordered subring but decided this was inferior)

In order to prove the new results, a certain amount of API for bilinear forms needed to be added. This also enabled me to golf some of the proofs of the existing non-degeneracy result (for order scalars).

I also included a small amount of golfing / moving, and to standardise on `LinearMap.ker P.RootForm` rather than `LinearMap.ker P.Polarisation` (since it interfaced better with the bilinear form API). As compensation I added the convenience lemma `RootPairing.ker_polarization_eq_ker_rootForm`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Eigenspace/Triangularizable.lean [hunk 1]
```diff
@@ -134,7 +134,7 @@ theorem iSup_maxGenEigenspace_eq_top [IsAlgClosed K] [FiniteDimensional K V] (f
     -- Since the dimensions of `ER` and `ES` add up to the dimension of `V`, it follows that the
     -- span of all generalized eigenvectors is all of `V`.
     show ⨆ (μ : K), f.maxGenEigenspace μ = ⊤
-    rw [← top_le_iff, ← Submodule.eq_top_of_disjoint ER ES h_dim_add h_disjoint]
+    rw [← top_le_iff, ← Submodule.eq_top_of_disjoint ER ES (le_of_eq h_dim_add.symm) h_disjoint]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Eigenspace/Triangularizable.lean:137]: Untested:
```suggestion
    rw [← top_le_iff, ← Submodule.eq_top_of_disjoint ER ES h_dim_add.ge h_disjoint]
```

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 2]
```diff
@@ -54,22 +54,29 @@ theorem finrank_add_le_finrank_add_finrank (s t : Submodule K V) [FiniteDimensio
...
   rfl
 
-theorem finrank_add_finrank_le_of_disjoint [FiniteDimensional K V]
-    {s t : Submodule K V} (hdisjoint : Disjoint s t) :
-    finrank K s + finrank K t ≤ finrank K V := by
-  rw [← Submodule.finrank_sup_add_finrank_inf_eq s t, hdisjoint.eq_bot, finrank_bot, add_zero]
-  exact Submodule.finrank_le _
+theorem disjoint_iff_isCompl [FiniteDimensional K V] (s t : Submodule K V)
+    (hdim : finrank K V ≤ finrank K s + finrank K t) :
+    IsCompl s t ↔ Disjoint s t :=
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:78]: Please swap either the name components or the two sides of the iff.

**Review by jcommelin — COMMENTED** [review]
Nice work! Two minor comments.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:78]: Eek, thanks: renamed.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
